US07524951B2
4 N hydrochloric acid dioxane solution (2.3 L) was added dropwise to a solution (1.6 L) of 542 g of 5-bromo-2-t-butoxycarbonylaminomethylthiazole in ethanol at an internal temperature of 40° C. over a period of 1.1 hr. The mixture was stirred until the internal temperature reached 23° C. The precipitated crystal was collected by filtration, was washed twice with ethanol, and was then dried under the reduced pressure to give 394 g of 2-aminomethyl-5-bromothiazole hydrochloride.

reactant | hydrochloric acid dioxane | 4 N, 2.3 L | O1CCOCC1.Cl
reactant | 5-bromo-2-t-butoxycarbonylaminomethylthiazole | 1.6 L, 542 g | BrC1=CN=C(S1)CNC(=O)OC(C)(C)C | C9H13BrN2O2S
solvent | ethanol | C(C)O | C2H6O
product | 2-aminomethyl-5-bromothiazole hydrochloride | 394 g | Cl.NCC=1SC(=CN1)Br | InChI=1S/C4H5BrN2S.ClH/c5-3-2-7-4(1-6)8-3;/h2H,1,6H2;1H
